US08461328B2
(1R,3R)-3-(1-Benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino) cyclohexanol
A stirred suspension of 1-Benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine (2.92 g, 8.65 mmol) and (1R,3R)-3-Amino-cyclohexanol (1.00 g, 8.68 mmol) in isopropyl alcohol (30 ml) was treated with N,N-diisoppropylethylamine (2.27 ml, 13 mmol) and heated at 82° C. overnight. LC/MS shows reaction complete. Reaction cooled to room temperature and used as is for the next step. LCMS (Method M, ESI): RT=2.52 min, m+H=417.3; 1H).

reactant | 1-Benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine | 8.65 mmol, 2.92 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2Cl)[N+](=O)[O-] | C13H8ClN3O4S
reactant | (1R,3R)-3-Amino-cyclohexanol | 8.68 mmol, 1.00 g | N[C@H]1C[C@@H](CCC1)O | C6H13NO
solvent | isopropyl alcohol | 30 ml | C(C)(C)O | C3H8O
product | (1R,3R)-3-(1-Benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino) cyclohexanol | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2N[C@H]2C[C@@H](CCC2)O)[N+](=O)[O-] | C19H20N4O5S
